US09120728B2
N-ethyl-2-(3-fluoro-5-methylsulfonyl-phenoxy)ethanamine
Preparation according to Example 1 but performed in one portion: 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene (0.321 g, 1.08 mmol) and ethanamine (4.3 ml, 8.6 mmol 2 M in methanol) in ethanol (6 ml). Yield: 255 mg (90%). The amine was converted to the hydrochloric acid salt and re-crystallized from ethanol/diethyl ether: M.p. 200.8-201.1° C. MS m/z (relative intensity, 70 eV) 261 (M+, 3), 94 (6), 59 (12), 58 (bp), 56 (8).

reactant | 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene | 1.08 mmol, 0.321 g | BrCCOC1=CC(=CC(=C1)S(=O)(=O)C)F | C9H10BrFO3S
reactant | ethanamine | 8.6 mmol, 2 M, 4.3 ml | C(C)N | C2H7N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N-ethyl-2-(3-fluoro-5-methylsulfonyl-phenoxy)ethanamine | C(C)NCCOC1=CC(=CC(=C1)S(=O)(=O)C)F | C11H16FNO3S
